US06809199B2
Step B: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(pyrrolidin-3-yloxy)-3,4-dihydroquinolin-2(1H)-one
To a solution of benzyl 3-([5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]oxy}pyrrolidine-1-carboxylate (0.051 g) in 6 mL of CH2Cl2 was added 1 mL of TFA and the mixture was stirred for 1 h at rt. The reaction mixture was purified by preparative thin layer chromatography eluting with 10% ethanol/dichloromethane to give the product. Mass spectrum m/z (ESI) 487.15 (M+1).

reactant | benzyl 3-([5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]oxy}pyrrolidine-1-carboxylate | 0.051 g | ClC1=C(C=CC=C1)C1=C2CCC(N(C2=CC(=C1)OC1CN(CC1)C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1Cl)Cl)=O | C33H27Cl3N2O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(pyrrolidin-3-yloxy)-3,4-dihydroquinolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CCC(N(C2=CC(=C1)OC1CNCC1)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N2O2
